US04048323
A mixture of 45.2 g (0.198 mole) of 3-(4-chlorophenyl)benzofuran, 22.2 g (0.248 mole) of cuprous cyanide and 15 ml of pyridine is heated to 220° C. and maintained at this temperature for 1 day. The reaction mixture is poured into a solution of 47.5 g of ferric chloride, 30 ml of concentrated hydrochloric acid, and 135 ml of water with stirring. The mixture is stirred with heating below its boiling point for 1 hour. The aqueous portion is removed and the organic portion is mixed with 1.2 1 of benzene and the mixture is stirred for 1 hour. The mixture is then filtered. The filtrate is washed with 6N hydrochloric acid, water, 10% sodium hydroxide solution and saturated sodium chloride solution then dried over magnesium sulfate. The benzene solution is then evaporated to provide a dark oil which solidifies to provide 3-(4-cyanophenyl)benzofuran. The infrared spectrum of the product is consistent with the assigned structure.

reactant | 3-(4-chlorophenyl)benzofuran | 0.198 mole, 45.2 g | ClC1=CC=C(C=C1)C1=COC2=C1C=CC=C2 | C14H9ClO
reactant | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
reactant | hydrochloric acid | 30 ml | Cl | ClH
solvent | water | 135 ml | O | H2O
product | 3-(4-cyanophenyl)benzofuran | C(#N)C1=CC=C(C=C1)C1=COC2=C1C=CC=C2 | C15H9NO
